US08791267B2
(Prepared by a modification of reported procedure WO Patent: WO2006/7700). To a solution of 2-bromo-3-nitro-anisole synthesized above (10.3 mmol, 1.0 eq.) in absolute ethanol and glacial acetic acid at room temperature was added iron powder (42.1 mmol, 4.1 eq). The resultant mixture was heated to reflux for 1.5 hours, and then cooled to room temperature. The reaction mixture was diluted with water, and solid sodium carbonate was added until the pH was 6-7. Dichloromethane was added, and the mixture was filtered through celite. The dried (sodium sulfate) organics were concentrated to afford 2-bromo-3-methoxy-aniline (I-10, X═Br, R1═CH3) as an oil. Yield: 90%; 1H NMR (400 MHz; CDCl3): 3.87 (s, 3H), 4.16 (br s, 2H), 6.31 (dd, J=8.0, 1.2 Hz, 1H), 6.42 (dt, J=8.0, 0.8, 0.4 Hz, 1H), 7.05 (t, J=8.0 Hz, 1H) ppm.

reactant | 2-bromo-3-nitro-anisole | BrC1=C(C=CC=C1[N+](=O)[O-])OC | C7H6BrNO3
reactant | acetic acid | C(C)(=O)O | C2H4O2
reactant | Dichloromethane | ClCCl | CH2Cl2
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
solvent | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
catalyst | iron | 42.1 mmol, 4.1 eq | [Fe] | Fe
product | 2-bromo-3-methoxy-aniline | Yield: 90% | BrC1=C(N)C=CC=C1OC | C7H8BrNO
